US03932503
7.8 g of N-[4-(β-acetoamido-ethyl)-benzenesulfonyl]-N'-(4-chlorocyclohexyl)-urea (melting point 151° -153°C) are heated under reflux for 2 hours with 1.6 g of sodium hydroxide and 30 ml of water. Then the whole is cooled to room temperature, 20 ml of acetone are added and 1.2 g of glacial acetic -chlorobenzamido>-ethyl)-benzenesulfonyl] acid, and 4.1 g of 2-methoxy-5-chlorobenzoylchloride are added in portions and stirring is continued for 1 hour. The precipitate if filtered off with suction, stirred with bicarbonate solution and recrystallized from methanol/dimethylformamide. The N-[4-(β-<-methoxy-5-chlorobenzamido>-ethyl)-benzenesulfonyl]-N'-(4-chlorocyclohexyl)-urea obtained melts at 178°-179°C.

reactant | N-[4-(β-acetoamido-ethyl)-benzenesulfonyl]-N'-(4-chlorocyclohexyl)-urea | 7.8 g | C(C)(=O)NCCC1=CC=C(C=C1)S(=O)(=O)NC(=O)NC1CCC(CC1)Cl | C17H24ClN3O4S
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
reactant | water | 30 ml | O | H2O
reactant | 2-methoxy-5-chlorobenzoylchloride | 4.1 g | COC1=C(C(=O)Cl)C=C(C=C1)Cl | C8H6Cl2O2
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | N'-(4-chlorocyclohexyl)-urea | ClC1CCC(CC1)NC(N)=O | C7H13ClN2O
